US07199147B2
To a suspension of trans-3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4,4-dimethylcyclohexyl 4-nitrobenzoate (420 mg, 1.00 mmol) in a mixture of methanol (0.10 ml) and tetrahydrofuran (10 ml) was added 28%-sodium methoxide (0.24 ml, 1.00 mmol) at 3° C., and stirred at 0° C. for 30 minutes and then at room temperature for 35 minutes. The reaction solution was adjusted to pH 4 with a 0.5M-aqueous potassium hydrogensulfate solution and then distilled under reduced pressure to remove the solvent. The residue was added to water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent, and the resulting residue was purified by a silica gel column chromatography (hexane/ethyl acetate=2/1) to obtain trans-2-(5-hydroxy-2,2-dimethylcyclohexyl)-1H-isoindole-1,3(2H)-dione (231 mg, 85%).

reactant | trans-3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4,4-dimethylcyclohexyl 4-nitrobenzoate | 1.00 mmol, 420 mg | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2C[C@H](C(CC2)(C)C)N2C(C3=CC=CC=C3C2=O)=O)C=C1 | C23H22N2O6
reactant | sodium methoxide | 1.00 mmol, 0.24 ml | C[O-].[Na+]
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | methanol | 0.10 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | trans-2-(5-hydroxy-2,2-dimethylcyclohexyl)-1H-isoindole-1,3(2H)-dione | 231 mg, 85% | O[C@@H]1CCC([C@H](C1)N1C(C2=CC=CC=C2C1=O)=O)(C)C | C16H19NO3
